US04397864
To 50 ml dry tetrahydrofuran was added 1.0 g of sodium hydride (60% in oil) and then 5.0 g of 3-phenoxybenzyl 2-(4-hydroxyphenyl)-2-methylpropyl ether in 15 ml of dry tetrahydrofuran was added dropwise to the mixture under reflux over a period of 30 minutes. The mixture was further refluxed for 10 minutes and 5.0 ml of ethyl chloromethyl ether was added dropwise to the mixture for 30 minutes. And the resulting mixture was further refluxed for 10 minutes, cooled to room temperature, poured into water, and extracted with benzene. The benzene extract was washed with water, dried over Na2SO4, and evaporated to give the oily residue which was purified by column chromatography on 150 g silica gel (20:1 mixed solvent of benzene and ether was used as eluent) to give 5.0 g of 3-phenoxybenzyl 2-(4-ethoxymethoxyphenyl)-2-methylpropyl ether.

reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | 3-phenoxybenzyl 2-(4-hydroxyphenyl)-2-methylpropyl ether | 5.0 g | OC1=CC=C(C=C1)C(COCC1=CC(=CC=C1)OC1=CC=CC=C1)(C)C | C23H24O3
reactant | ethyl chloromethyl ether | 5.0 ml | ClCOCC | C3H7ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-phenoxybenzyl 2-(4-ethoxymethoxyphenyl)-2-methylpropyl ether | 5.0 g | C(C)OCOC1=CC=C(C=C1)C(COCC1=CC(=CC=C1)OC1=CC=CC=C1)(C)C | C26H30O4
